US07498460B2
3-{[(3-Carboxycyclohexyl)amino]carbonyl}-4-{3-[4-(4-phenoxybutoxy)phenyl]-propoxy}benzoic acid (racemate B)
A solution of 638 mg of methyl 3-({[3-(methoxycarbonyl)cyclohexyl]-amino}carbonyl)-4-{3-[4-(4-phenoxybutoxy)phenyl]propoxy}benzoate (racemate B) in 4 ml of tetrahydrofuran (THF) and 4 ml of methanol is mixed with 4 ml of 2 molar sodium hydroxide solution and heated at 60° C. for one hour. The pH is then adjusted to a value of 3-4 with 2 molar hydrochloric acid, and the mixture is extracted with ethyl acetate. The organic extract is washed with saturated sodium chloride solution and dried over anhydrous sodium sulphate. Filtration and evaporation result in a crude product which is purified by recrystallization from diethyl ether. 589 mg of product are isolated.

reactant | methyl 3-({[3-(methoxycarbonyl)cyclohexyl]-amino}carbonyl)-4-{3-[4-(4-phenoxybutoxy)phenyl]propoxy}benzoate | 638 mg | COC(=O)C1CC(CCC1)NC(=O)C=1C=C(C(=O)OC)C=CC1OCCCC1=CC=C(C=C1)OCCCCOC1=CC=CC=C1 | C36H43NO8
reactant | sodium hydroxide | 2 molar, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 molar | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | 3-{[(3-Carboxycyclohexyl)amino]carbonyl}-4-{3-[4-(4-phenoxybutoxy)phenyl]-propoxy}benzoic acid | 589 mg | C(=O)(O)C1CC(CCC1)NC(=O)C=1C=C(C(=O)O)C=CC1OCCCC1=CC=C(C=C1)OCCCCOC1=CC=CC=C1 | C34H39NO8
